US06215016B1
A solution of 1-phenyl-1-trimethylsiloxyethylene (25.0 g, 130 mmol) in absolute ether (400 mL) was cooled to −78° C., and malonyl dichloride (6.40 mL, 65.0 mmol) was added dropwise to the resulting solution by using a dropping funnel. The mixture was gradually heated to room temperature, stirred at room temperature (5 to 10° C.) for 14 hours, and further stirred at 30° C. for 24 hours. The thus-produced yellow precipitate was filtered and washed with absolute ether to give the target 4-hydroxy-6-methyl-2-pyrone (8.40 g, 67%) as a yellow solid.

reactant | 1-phenyl-1-trimethylsiloxyethylene | 130 mmol, 25.0 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | malonyl dichloride | 65.0 mmol, 6.40 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | ether | 400 mL | CCOCC | C4H10O
product | 4-hydroxy-6-methyl-2-pyrone | 8.40 g, 67% | OC1=CC(OC(=C1)C)=O | C6H6O3
